US07078405B2
A 5N aqueous sodium hydroxide solution (20 mL) was added to a solution of the resulting 8-(2,4-dimethylphenyl)-2-ethyl-6-methylimidazo[1,2-b]pyridazin-3-carboxylic acid methyl ester in ethanol (100 mL), and the mixture was heated under reflux for 3 hours. The reaction mixture was evaporated as it was. Water was added thereto, which was extracted with ethyl acetate. 5N Hydrochloric acid (pH=1) was added to the aqueous layer, and the solution was extracted with ethyl acetate, dried over anhydrous magnesium sulfate and evaporated, to give 8-(2,4-dimethylphenyl)-2-ethyl-6-methylimidazo[1,2-b]pyridazine-3-carboxylic acid as a crude compound (2.8 g).

reactant | sodium hydroxide | 5N, 20 mL | [OH-].[Na+]
reactant | 8-(2,4-dimethylphenyl)-2-ethyl-6-methylimidazo[1,2-b]pyridazin-3-carboxylic acid methyl ester | COC(=O)C1=C(N=C2N1N=C(C=C2C2=C(C=C(C=C2)C)C)C)CC | C19H21N3O2
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 8-(2,4-dimethylphenyl)-2-ethyl-6-methylimidazo[1,2-b]pyridazine-3-carboxylic acid | CC1=C(C=CC(=C1)C)C=1C=2N(N=C(C1)C)C(=C(N2)CC)C(=O)O | C18H19N3O2
